US07323466B2
c) (S)-2-[(4-Benzyloxy-2,5-difluoro-phenyl)-bromo-methyl]-morpholine-4-carboxylic acid tert-butyl ester
To a solution of 7.5 g of ((S)-2-[(4-benzyloxy-2,5-difluoro-phenyl)-hydroxy-methyl]-morpholine-4-carboxylic acid tert-butyl ester in dichloromethane (90 ml) was added with cooling (0-5° C.) tetrabromomethane (12.5 g) and afterwards triphenylphosphine (13.5 g) in small portions. Stirring continued for 1 hour at room temperature before the mixture was added dropwise to diethyl ether (600 mL). Solids were removed by filtration and the filtrate was concentrated in vacuo. The residue was then purified by column chromatography (heptane-ethyl acetate (3:1)/silica gel) to give 5.6 g of the title compound.

reactant | (S)-2-[(4-benzyloxy-2,5-difluoro-phenyl)-hydroxy-methyl]-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(O)C1=C(C=C(C(=C1)F)OCC1=CC=CC=C1)F | C23H27F2NO5
reactant | tetrabromomethane | 12.5 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 13.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl ether | 600 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | (S)-2-[(4-Benzyloxy-2,5-difluoro-phenyl)-bromo-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 5.6 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(Br)C1=C(C=C(C(=C1)F)OCC1=CC=CC=C1)F | C23H26BrF2NO4
